* Z:\mnt\design.r\spice\examples\3492.asc
R1 N002 N001 200m
M§Q1 N003 N005 N002 N002 FDS4685
D1 N003 N004 LXK2-PW14 N=3
L1 N004 N007 10µ Rpar=2K
D2 N007 N001 MBRS140
C1 N001 N004 .47µ
C2 0 N009 470p Rser=22K
V1 N006 0 5
V2 N001 0 42
V3 N011 0 PULSE(5 0 1.5m 10u 10u .9m 1m)
C3 N010 0 .05µ
R2 N008 N010 100K
R3 N010 0 100K
XU1 N006 N006 N008 N010 MP_01 MP_02 N011 N008 N009 0 MP_03 N002 N001 N005 N007 MP_04 0 LT3492
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.lib LT3492.sub
.backanno
.end
